US08293768B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 4-fluorobenzylamine with 2-(aminomethyl)pyridine to react with 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white powder in 43% yield: mp 149-151° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.52-8.46 (m, 2H), 7.72 (t, J=5.7 Hz, 1H), 7.39-7.19 (m, 7H), 4.49 (d, J=5.7 Hz, 2H), 4.40 (s, 2H), 3.97 (t, J=7.5 Hz, 2H), 3.42 (t, J=7.5 Hz, 2H), 2.46 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.4, 159.1, 157.9, 155.5, 151.5, 149.2, 137.1, 136.7, 129.1, 128.2, 127.9, 122.4, 121.2, 118.2, 47.3, 45.0, 42.4, 42.0, 17.6; MS (ES+) m/z 408.3 (M+1).

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide | 43% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=NC=CC=C1)=O | C21H21N5O2S
